US06638927B2
Preparation of (4-Azido-phenyl)-(7-methoxy-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-methanone
7-Methoxy-2,3,4,5-tetrahydro-1 H-benzo[d]azepine (1 equivalent) was dissolved in THF (0.1 M) along with azidobenzoic acid (1.5 equivalents), EDC (1.5 equivalents), DMAP (0.18 equivalents), and DIEA (1.5 equivalents). The reaction was stirred at room temperature overnight. The reaction was then washed with 10% citric acid, saturated sodium carbonate, and brine. The organic layer was then dried over sodium sulfate and the organic solvent removed under reduced pressure. The material was then purified via flash chromatography using 8% acetone/1% ammonia solution/petroleum spirit running solvent to give the title compound. (MH+) 323.2.

reactant | 7-Methoxy-2,3,4,5-tetrahydro-1 H-benzo[d]azepine | 1 equivalent | COC1=CC2=C(CCNCC2)C=C1 | C11H15NO
reactant | azidobenzoic acid | 1.5 equivalents | N(=[N+]=[N-])C1=C(C(=O)O)C=CC=C1 | C7H5N3O2
reactant | EDC | 1.5 equivalents
reactant | DIEA | 1.5 equivalents | CCN(C(C)C)C(C)C | C8H19N
reactant | THF | 0.1 M | C1CCOC1 | C4H8O
catalyst | DMAP | 0.18 equivalents | CN(C)C=1C=CN=CC1 | C7H10N2
product | (4-Azido-phenyl)-(7-methoxy-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-methanone | N(=[N+]=[N-])C1=CC=C(C=C1)C(=O)N1CCC2=C(CC1)C=C(C=C2)OC | C18H18N4O2
